US04272437
A solution of 2-azidoethoxyacetic acid (2.09 g, 14.4 mmol) in thionyl chloride (5 ml) was stirred at room temperature for 4 h. The excess thionyl chloride was removed under the vacuum of the water aspirator and the residue dissolved in benzene (10 ml, dried over molecular sieves) was evaporated in vacuo. The oil so obtained was dried in vacuo (water pump) over NaOH for 1 h yielding 2.23 g (13.6 mmol, 94.4%) of 2-azidoethoxyacetyl chloride as a colourless oil: 1Hmr (CDCl3) δ: 3.43 (2H, br. t, J=5 Hz, --CH2O--) 3.78 (2H, br. t, J=5 Hz, --CH2N3) and 4.50 ppm (2H, s, --COCH2O--); ir (neat) νmax : 2100 (azide) and 1800 cm-1 (--COCl). This material was used in the next reaction without any purification.

reactant | 2-azidoethoxyacetic acid | 14.4 mmol, 2.09 g | N(=[N+]=[N-])CCOCC(=O)O | C4H7N3O3
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-azidoethoxyacetyl chloride | 13.6 mmol, 2.23 g, 94.4% | N(=[N+]=[N-])CCOCC(=O)Cl | C4H6ClN3O2
